US06265575B1
Part D. 6-Hydroxy-2-[3-hydroxymethyl-4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methoxy-4-(4-morpholinylmethyl)phenyl Ketone
The (30.8 mg, 0.0381 mmol) 6-benzyloxy-2-[3-t-butyldimethylsilyloxymethyl-4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-(1-pyrrolidinylmethyl)phenyl ketone (Part C) was dissolved in 0.5 mL of 1N tetrabutylammonium fluoride in THF. The solution was stirred at room temperature for 1 h. To the reaction mixture was added 1.0 mL of water and diluted with 15 mL of EtOAc. The layers were separated and the aqueous layer was extracted (1×10 mL) with EtOAc. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. Purification by flash chromatography (silica gel, 80:17:3 THF-Hexanes-Et3N) afforded 5.7 mg (0.0082 mmol, 22%) of a yellow oil.

reactant | 6-benzyloxy-2-[3-t-butyldimethylsilyloxymethyl-4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-(1-pyrrolidinylmethyl)phenyl ketone | 0.0381 mmol, 30.8 mg | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC(=C(C=C1)OCCN1CCCC1)CO[Si](C)(C)C(C)(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C47H58N2O5SSi
reactant | water | 1.0 mL | O | H2O
solvent | tetrabutylammonium fluoride | 1N, 0.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 6-Hydroxy-2-[3-hydroxymethyl-4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methoxy-4-(4-morpholinylmethyl)phenyl Ketone | 0.0082 mmol, 5.7 mg, 22% | COC=1C=C(C=CC1CN1CCOCC1)C(=O)C=1C2=C(SC1C1=CC(=C(C=C1)OCCN1CCCC1)CO)C=C(C=C2)O | C34H38N2O6S
